US07132436B2
N-[4-(4-Fluoro-3-methylphenyl)-1,3-thiazol-2-yl][1,1′-biphenyl]-4-sulfonamide
The title compound was prepared from 2-amino-4-(4′-fluoro-3′-methyl)phenylthiazole and 4-phenylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (15.8 mg) with purity >90%. MS (pos) m/z 425.2.

reactant | 2-amino-4-(4′-fluoro-3′-methyl)phenylthiazole | CC1=C(C=CC(=C1)C2=CSC(=N2)N)F | C10H9FN2S
reactant | 4-phenylbenzenesulfonyl chloride | C1(=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H9ClO2S
product | N-[4-(4-Fluoro-3-methylphenyl)-1,3-thiazol-2-yl][1,1′-biphenyl]-4-sulfonamide | FC1=C(C=C(C=C1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C | C22H17FN2O2S2
